US06861106B2
Referring to FIG. 1d for the preparation of the blue dichroic dye, R9 are defined as mentioned above. 1,5-dihydroxy-4,8-dinitroanthraquinone and H3BO3 are dissolved in concentrated sulfuric acid and allowed to react with phenol at a temperature between −5° C. and −10° C. The product is collected and dissolved in a solvent (such as acetone), then, potassium carbonate and 1-halo-alkane (may have a fluoride substitute, for example, 1-bromo-4-fluorobutane) are added and heated at 70° C. for reaction, forming an anthraquinone compound as shown in FIG. 1d, a blue dichroic dye.

reactant | 1,5-dihydroxy-4,8-dinitroanthraquinone | OC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)[N+](=O)[O-])O)=O)[N+](=O)[O-] | C14H6N2O8
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
